US07638515B2
Analogously to Example 7, 687 mg of ethyl-4-(2-methoxyphenyl)-4-methyl-2-oxopentanoate (WO 00/32584) is reacted with 1 g of (pentafluoroethyl)trimethylsilane and 0.5 ml (tetrabutylammonium fluoride solution (1 M in THF)) in 18 ml of THF to form g of ethyl-4-(2-methoxyphenyl)-2-hydroxy-4-methyl-2-(pentafluoroethyl)-pentanoate. 450 mg of the obtained ester in 12 ml of diethyl ester is mixed in portions at 0° C. with 66 mg of lithium aluminum hydride. After stirring for 11 hours, it is added to saturated bicarbonate solution and filtered through diatomaceous earth. The phases are separated, and the aqueous phase is extracted with ethyl acetate. The organic phase is washed with water and brine, dried (Na2SO4) and concentrated by evaporation. 420 mg of diol is obtained as a yellow oil. 400 mg of the diol is oxidized to the corresponding aldehyde with 0.11 ml of oxalyl chloride, 0.21 ml of DMSO and 1 ml of triethylamine. It is washed with water and brine, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatography on silica gel (hexane/ethyl acetate 0->5%), 268 mg of the title compound is obtained as a yellow oil.

reactant | ethyl-4-(2-methoxyphenyl)-4-methyl-2-oxopentanoate | 687 mg | C(C)OC(C(CC(C)(C)C1=C(C=CC=C1)OC)=O)=O | C15H20O4
reactant | (pentafluoroethyl)trimethylsilane | 1 g | FC(C(F)(F)F)(F)[Si](C)(C)C | C5H9F5Si
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | ethyl-4-(2-methoxyphenyl)-2-hydroxy-4-methyl-2-(pentafluoroethyl)-pentanoate | C(C)OC(C(CC(C)(C)C1=C(C=CC=C1)OC)(C(C(F)(F)F)(F)F)O)=O | C17H21F5O4
